US04518597
7-[4-(3,4-Dimethyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 6-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethyl-thiophenol.

reactant | 6-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H21NO6S
reactant | 3,4-dimethyl-thiophenol | CC=1C=C(C=CC1C)S | C8H10S
product | 7-[4-(3,4-Dimethyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CC=1C=C(C=CC1C)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C22H27NO3S
